US05928562
Preparation of 4-Decyloxy-4'-(3-(2-(2-(nonafluorobutoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)propyloxy)tolane
The title compound was prepared essentially as in Example 1 by combining 4-decyloxy-4'-hydroxytolane (1.5 g, 4.3 mmol, prepared essentially as described in EP 641850) with 3-(2-(2-(nonafluorobutoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)propyl bromide (2.6 g, 4.7 mmol). The reaction mixture was quenched with water, and the resulting crude product was further purified by recrystallization from ethanol, followed by Kugelrohr distillation (200-220° C. at 0.5 torr), to provide a yield of 2.64 g.

reactant | 4-decyloxy-4'-hydroxytolane | C(CCCCCCCCC)OC1=CC=C(C=C1)C#CC1=CC=C(C=C1)O | C24H30O2
reactant | 3-(2-(2-(nonafluorobutoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)propyl bromide | 4.7 mmol, 2.6 g | FC(C(C(OC(C(OC(COCCCBr)(F)F)(F)F)(F)F)(F)F)(F)F)(C(F)(F)F)F | C11H8BrF15O3
product | 4-Decyloxy-4'-(3-(2-(2-(nonafluorobutoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)propyloxy)tolane | C(CCCCCCCCC)OC1=CC=C(C=C1)C#CC1=CC=C(C=C1)OCCCOCC(F)(F)OC(C(OC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C35H37F15O5
